US09120727B2
Step A: N-(Cyclohex-3-en-1(R)-yl)-2,2,2-trifluoro-acetamide
50 g of 3-cyclohexene-1(R)-carboxylic acid and 425 ml of chlorobenzene were charged to a flask at 20-25° C. and the mixture obtained was stirred. To the mixture obtained 110 ml of triethylamine was added dropwise followed by 25 ml of chlorobenzene. The mixture obtained was warmed to 78 to 82° C. and 109.2 g of DPPA was added in a dose controlled fashion, maintaining the temperature at 80 to 90° C. and steady gas evolution and a 20 ml of chlorobenzene line rinse was given. The mixture obtained was stirred at 78 to 82° C. for 1 h until complete determined by TLC. The mixture obtained was cooled to approximately 70° C. and 226 g of trifluoroacetic acid in 34 ml of chlorobenzene was added dropwise maintaining the temperature at 70 to 80° C., followed by 1.57 g of CuCl and a 25 ml chlorobenzene line rinse. The mixture obtained was stirred at 90 to 95° C. for 2 h and the reaction was followed by TLC until completion. The mixture obtained was cooled to 15 to 25° C. and 375 ml of 20% aqueous K2CO3 solution added and the mixture obtained was stirred for 15 min. The layers obtained were separated and to the upper organic layer obtained was added 375 ml of 20% aqueous K2CO3 solution. The mixture obtained was filtered through celite to remove residual solid and the celite was washed with 50 ml of chlorobenzene. The layers obtained were separated. The combined lower aqueous layers obtained were back extracted with 250 ml of chlorobenzene and the combined organic phases obtained were washed with 500 ml of 0.5 M phosphoric acid. The aqueous layer obtained was back extracted with 300 ml of chlorobenzene and the combined organic phases obtained were washed with 500 ml of 5% aqueous NaCl solution.

reactant | 3-cyclohexene-1(R)-carboxylic acid | 50 g | [C@@H]1(CC=CCC1)C(=O)O | C7H10O2
reactant | DPPA | 109.2 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | trifluoroacetic acid | 226 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | K2CO3 | 375 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 375 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | chlorobenzene | 34 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | CuCl | 1.57 g | Cl[Cu]
solvent | chlorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 425 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | triethylamine | 110 ml | C(C)N(CC)CC | C6H15N
product | N-(Cyclohex-3-en-1(R)-yl)-2,2,2-trifluoro-acetamide | [C@@H]1(CC=CCC1)NC(C(F)(F)F)=O | C8H10F3NO
